US06699887B2
A mixture of 227 mg of 4-bromoethyl-5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazole, 62 mg of 3-aminopyridine and 36 mg of sodium hydride (60% in mineral oil) in 3 ml of anhydrous N,N-dimethylformamide was stirred under nitrogen at 110° C. for 15 minutes. Water (10 ml) was added and the mixture was extracted three times with 8 ml of dichloromethane. The combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using dichloromethane/methanol for the elution to give 17 mg of [5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazol-4-ylmethyl]-pyridin-3-yl-amine as a brown gum. 1H NMR (DMSO-d6) 1.19 (t, 3H), 2.27 (s, 3H), 4.05-4.11 (m, 4H), 6.03 (t, 1H), 6.87 (d, 1H), 6.99 (m, 1H), 7.04 (d, 2H), 7.44 (t, 1H), 7.72 (dd, 1H), 7.94 (d, 1H).

reactant | 4-bromoethyl-5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazole | 227 mg | BrCCC=1C(=NN(C1SC1=CC(=CC(=C1)Cl)Cl)CC)C | C14H15BrCl2N2S
reactant | 3-aminopyridine | 62 mg | NC=1C=NC=CC1 | C5H6N2
reactant | sodium hydride | 36 mg | [H-].[Na+]
reactant | Water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | [5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazol-4-ylmethyl]-pyridin-3-yl-amine | 17 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1CC)C)CNC=1C=NC=CC1 | C18H18Cl2N4S
